US07276516B2
3-Morpholin-4-yl-1-triisopropylsilanyl-1H-indole
Combine 3-bromo-1-triisopropylsilanyl-1H-indole (0.33 g, 0.94 mmol), morpholine (0.10 mL, 1.15 mmol), 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.012 g, 0.03 mmol), and tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (0.012 g, 0.01 mmol) in a pressure tube. Add 1N solution of lithium bis(trimethylsilyl)amide in THF (2.00 mL, 2.00 mmol), flush tube with nitrogen gas, and close the tube. Stir at 65° C. for 18 h, cool to room temperature, dilute with water, and extract with EtOAc. Wash EtOAc layer with water, brine, dry (Na2SO4), and concentrate under vacuum. Purify the residue by flash chromatography using 0 to 50% of EtOAc in hexanes to give the title compound (0.20 g 60%): MS (ES) 359.1 (M+1)+.

reactant | 3-bromo-1-triisopropylsilanyl-1H-indole | 0.94 mmol, 0.33 g | BrC1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C17H26BrNSi
reactant | morpholine | 1.15 mmol, 0.10 mL | N1CCOCC1 | C4H9NO
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | THF | 2.00 mmol, 2.00 mL | C1CCOC1 | C4H8O
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.01 mmol, 0.012 g | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.03 mmol, 0.012 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
product | 3-Morpholin-4-yl-1-triisopropylsilanyl-1H-indole | 0.20 g, 60% | N1(CCOCC1)C1=CN(C2=CC=CC=C12)[Si](C(C)C)(C(C)C)C(C)C | C21H34N2OSi
